US08609675B2
Step I—Preparation of tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxylate (Int-9i)
To a solution of tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxy late (Int-9h, 3.24 g, 4.44 mmol) in DMF (20 mL) was added N-bromosuccinimide (750 mg, 4.21 mmol). The mixture was allowed to stir at room temperature for one hour. More N-bromosuccinimide (75 mg) was added and the mixture was stirred for another half hour before being diluted with EtOAc (200 mL). The mixture was washed with water three times, brine and dried (MgSO4). After solvent was removed under reduced pressure, and the residue was purified on silica. Elution with EtOAc in hexanes (0-50%) gave the title compound (3 g, 83%). LC/MS: m/z=809 (M+H+).

reactant | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxy late | 4.44 mmol, 3.24 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C39H58N6O4Si2
reactant | N-bromosuccinimide | 4.21 mmol, 750 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 75 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxylate | 3 g, 83% | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C)Br)COCC[Si](C)(C)C)(C)C | C39H57BrN6O4Si2
